US06498172B1
5-[3-(4-Thiazol-2-yl-benzylamino)-propyl]-thiophene-2-carboxylic acid methyl ester.
The title compound of Step A was prepared from 5-(3-amino-propyl)-thiophene-2-carboxylic acid methyl ester, of Preparation 5, and 4-thiazol-2-yl-benzaldehyde, of Preparation 25, using the method described in Example 1, Step A, except N,N-diisopropylethylamine was used in place of triethylamine. 1H NMR (400 MHz, CDCl3) δ 8.97-7.32 (m, 7H), 6.72 (d, 1H, J=4 Hz), 3.82 (s, 3H), 3.70 (s, 2H), 2.91 (t, 2H, J=7 Hz), 2.62 (t, 2H, J=7 Hz), 1.90 (m, 2H); MS 373 (M+1).

reactant | 5-(3-amino-propyl)-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1)CCCN | C9H13NO2S
reactant | 4-thiazol-2-yl-benzaldehyde | S1C(=NC=C1)C1=CC=C(C=O)C=C1 | C10H7NOS
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
product | 5-[3-(4-Thiazol-2-yl-benzylamino)-propyl]-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1)CCCNCC1=CC=C(C=C1)C=1SC=CN1 | C19H20N2O2S2
